US04678800
The N-picolinoyloxysuccinimide is prepared by adding 8.4 g of N,N'-dicyclohexylcarbodiimide to a solution of 5.0 g of picolinic acid and 4.7 g of N-hydroxysuccinimide in 50 ml of dimethylformamide. The mixture is stirred overnight, triturated with ether and recrystallized from ethyl acetate, methylene chloride (1:1). The solid is collected and dried; mp. 174°-175°.

reactant | N,N'-dicyclohexylcarbodiimide | 8.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | picolinic acid | 5.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | N-hydroxysuccinimide | 4.7 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-picolinoyloxysuccinimide | N1=C(C=CC=C1)C(=O)ON1C(CCC1=O)=O | C10H8N2O4
